US08604061B2
To a stirred solution of (R)-4-[2-(4-fluoro-phenyl)-ethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (190 mg) at r.t. in dioxane (3.5 ml) under an argon atmosphere was added 4 M HCl solution in dioxane (1.47 ml). The mixture was stirred for 16 h. The mixture was concentrated. The crude product was purified by column chromatography (SiO2; gradient: CH2Cl2->CH2Cl2/MeOH 9:1) to give (R)-2-amino-4-(4-fluoro-phenyl)-butan-1-ol (78 mg) as off-white solid. MS (ISP): 184.1 ([M+H]+))

reactant | (R)-4-[2-(4-fluoro-phenyl)-ethyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 190 mg | C(C)(C)(C)OC(=O)N1C(OC[C@H]1CCC1=CC=C(C=C1)F)(C)C | C18H26FNO3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.47 ml | O1CCOCC1 | C4H8O2
product | (R)-2-amino-4-(4-fluoro-phenyl)-butan-1-ol | 78 mg | N[C@@H](CO)CCC1=CC=C(C=C1)F | C10H14FNO
